US05256781
The preparation of 4'-[[(2-chloro-4-quinazolinyl)amino]methyl][1,1'-biphenyl]-2-carboxylic acid methyl ester.
Sodium acetate (0.65 g), 2,4-dichloroquinazoline (0.52 g) and 4'-aminomethyl[1,1'-biphenyl]-2-carboxylic acid methyl ester (0.73 g) were suspended in 25 mL of tetrahydrofuran. The reaction was stirred at room temperature for approximately 18 hours at which time the solvents were evaporated. The residue was loaded onto a silica gel column and the desired product was eluted with ethyl acetate/hexane (1:1). The yield was 0.75 g (71%) (m.p.=75°-90° C.): 1H NMR (DMSO-d6, 300 MHz) δ 9.30 (t, J=6 Hz, 1H), 8.33 (d, J=8.1 Hz, 1H), 7.81 (m, 1H), 7.71 (m, 1H), 7.60 (m, 3H), 7.45 (m, 4H), 7.25 (d, J=8.1 Hz, 2H), 4.80 (d, J=5.8 Hz, 2H), 3.58 (s, 3H); positive FAB MS m/e 404(MH). Anal. calcd for C23H18ClN3O2 : C, 68.40; H, 4.49; N,10.40. Found: C,68.09; H, 4.57; N, 10.10.

reactant | Sodium acetate | 0.65 g | C(C)(=O)[O-].[Na+]
reactant | 2,4-dichloroquinazoline | 0.52 g | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | 4'-aminomethyl[1,1'-biphenyl]-2-carboxylic acid methyl ester | 0.73 g | COC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)CN | C15H15NO2
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 4'-[[(2-chloro-4-quinazolinyl)amino]methyl][1,1'-biphenyl]-2-carboxylic acid methyl ester | COC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)CNC1=NC(=NC2=CC=CC=C12)Cl | C23H18ClN3O2
